US03940394
(4-Chloro-6-(p-chlorobenzylamino)-2-pyrimidinylthio)acetic acid hydrazide
A stirred mixture of 1.1 g of (6-chloro-4-p-chlorobenzylamino-2pyrimidinylthio)acetic acid, ethyl ester 0.18 g of hydrazine hydrate (98%) and 0.3 g of sodium carbonate in 15 ml. of ethanol was heated under reflux for 3 hr. The reaction mixture was filtered and the filtrate diluted with water until a precipitate appeared. The solid was washed with aqueous (10%) sodium carbonate then recrystallized from ethanol to a mp. of 178-182°C.

reactant | (6-chloro-4-p-chlorobenzylamino-2pyrimidinylthio)acetic acid, ethyl ester | 1.1 g | ClC1=CC(=NC(=N1)SCC(=O)OCC)NCC1=CC=C(C=C1)Cl | C15H15Cl2N3O2S
reactant | hydrazine hydrate | O.NN
reactant | sodium carbonate | 0.3 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | (4-Chloro-6-(p-chlorobenzylamino)-2-pyrimidinylthio)acetic acid hydrazide | ClC1=NC(=NC(=C1)NCC1=CC=C(C=C1)Cl)SCC(=O)NN | C13H13Cl2N5OS
